US06703182B1
Cinnamoyl acetonitrile (5.1 g; 0.03 mol) is dissolved in 50 ml of acetic acid. 10 ml of H2O are added and the mixture is cooled to 3° C. in an ice/salt bath. Partial precipitation occurs, but the mixture remains well stirrable. Sodium nitrite (4.14 g; 0.06 mol) is added by portions over 10 min, keeping the temperature between 3 and 5° C. Complete solution is observed during addition, but precipitation occurs again towards the end. The mixture is then stirred at 0° C. for 1.5 h. The mixture is diluted with 100 ml of iced water with stirring, the light ochre precipitate is filtered, and washed with ca 100 ml of water. The humid cake is redissolved in ether (100 ml), washed with water, brine and dried over magnesium sulfate. Rotary evaporation and drying affords 2-hydroxyimino-3-oxo-5-phenyl-pent-4-enenitrile (4.7 g; 78%) as a dark yellow solid (mp 144-145° C. dec) which is used without further purification in the next reaction step.

reactant | Cinnamoyl acetonitrile | 0.03 mol, 5.1 g | C(C=CC1=CC=CC=C1)(=O)CC#N | C11H9NO
reactant | Sodium nitrite | 0.06 mol, 4.14 g | N(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
solvent | H2O | 10 ml | O | H2O
product | 2-hydroxyimino-3-oxo-5-phenyl-pent-4-enenitrile | 4.7 g, 78% | ON=C(C#N)C(C=CC1=CC=CC=C1)=O | C11H8N2O2
